US06664255B1
2-Aminomethyl-5-cyanopyridine hydrochloride (EX-58A) was prepared by the deprotection with 4N HCl Dioxane of the intermediate 2-{N,N-bis-(tert-butoxycarbonyl)aminomethyl}-5-cyanopyridine used to prepare 2-aminomethyl-5-carbobenzyloxyamidinopyridine dihydrogen chloride salt in Example 56: 1H NMR (400 MHz, DMSO) d 9.04 (s, 1H), 8.64 (br s, 2H), 8.34 (m, 1H), 7.69 (m, 1H), 4.25 (s, 2H); HRMS (EI) calcd for C7H8N3 134.0718, found 134.0699.

reactant | HCl Dioxane | 4N | O1CCOCC1.Cl
reactant | 2-{N,N-bis-(tert-butoxycarbonyl)aminomethyl}-5-cyanopyridine | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=NC=C(C=C1)C#N | C17H23N3O4
product | 2-Aminomethyl-5-cyanopyridine hydrochloride | Cl.NCC1=NC=C(C=C1)C#N | InChI=1S/C7H7N3.ClH/c8-3-6-1-2-7(4-9)10-5-6;/h1-2,5H,4,9H2;1H
